US04268509
Preparation of 2-Methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer)
A solution of 2-methoxyimino-2-(5-formamido-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer) (1.4 g) in 1 N aqueous solution of sodium hydroxide (19.1 ml) was heated at 50° to 55° C. for an hour. To the solution was added conc. hydrochloric acid (1.9 ml) under cooling in an ice-bath. The mixture was saturated with sodium chloride and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with diethyl ether to give the title compound (0.9 g), mp. 180° to 182° C. (dec.).

reactant | 2-methoxyimino-2-(5-formamido-1,2,4-thiadiazol-3-yl)acetic acid | 1.4 g | CON=C(C(=O)O)C1=NSC(=N1)NC=O | C6H6N4O4S
reactant | sodium hydroxide | 19.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.9 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
product | 2-Methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid | 0.9 g | CON=C(C(=O)O)C1=NSC(=N1)N | C5H6N4O3S
